US04337201
(B) (cis)-4-Phenyl-1-phenylmethoxycarbonyl-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester
(cis)-4-Phenyl-1-phenylmethoxycarbonyl-L-proline (3.52 g), dissolved in 25 ml of dry dimethylformamide, is treated with 1.61 g of anhydrous potassium fluoride and 2.0 g of chloromethyl pivalate under argon at room temperature for about 16 hours. The reaction mixture is diluted with ethyl acetate and washed with water (three times), saturated sodium bicarbonate and saturated brine. The aqueous layers are backwashed with fresh ethyl acetate. The combined organic layers are dried (MgSO4) and concentrated in vacuo to give 4.86 g of an oil.

reactant | (cis)-4-Phenyl-1-phenylmethoxycarbonyl-L-proline | 3.52 g | C1(=CC=CC=C1)[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)O | C19H19NO4
reactant | potassium fluoride | 1.61 g | [F-].[K+]
reactant | chloromethyl pivalate | 2.0 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (cis)-4-Phenyl-1-phenylmethoxycarbonyl-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester | 4.86 g | C1(=CC=CC=C1)[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OCOC(C(C)(C)C)=O | C25H29NO6
